US09382188B2
C) ethyl 3-(3-(((2-(5-(tert-butyl)-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate
To a solution of 2-(5-(tert-butyl)-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol (109 mg), ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate (91 mg) and triphenylphosphine (319 mg) in THF (6.0 mL) was added a 40% solution of diethyl azodicarboxylate in toluene (480 μL) at 0° C., and the mixture was stirred at room temperature for 12 hr. The mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (134 mg) as a colorless oil.

reactant | 2-(5-(tert-butyl)-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol | 109 mg | C(C)(C)(C)C1=NN=C(S1)C1=C(C=CC(=C1)O)C1=C(C=CC(=C1)OC)F | C19H19FN2O2S
reactant | ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate | 91 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CO | C15H20O3
reactant | triphenylphosphine | 319 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
solvent | toluene | 480 μL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-(3-(((2-(5-(tert-butyl)-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate | 134 mg | C(C)(C)(C)C1=NN=C(S1)C1=C(C=CC(=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)C1CC1)C1=C(C=CC(=C1)OC)F | C34H37FN2O4S
